US07109229B2
(a) 1-[3-(tert-Butyl-dimethyl-silanyloxy)-propyl]-6-methoxy-1H-indole
To a solution of 6-methoxyindole (10.0 g, 67.9 mmol), and (3-bromo-propoxy)-tert-butyl-dimethylsilane (18.0 g, 71.3 mmol) in DMF (300 mL) was added NaH (0.353 g, 8.82 mmol) as a 60% oil dispersion. The reaction was stirred for 2 h, quenched with saturated aq NaHCO3, diluted with EtOAc (400 mL), washed with saturated aq NaHCO3 and brine, dried (MgSO4), filtered, and concentrated to a transparent oil. The oil was purified by filtration through a plug of silica gel (85% hexane/EtOAc) to give (22.1 g, 100%) of the title compound as a transparent oil. 1H NMR (DMSO-d6) 7.38 (d, J=8.4 Hz, 1H), 7.15 (d, J=3.2 Hz, 1H), 6.92 (d, J=2.0 Hz, 1H), 6.65 (dd, J=2.4, 8.4 Hz, 1H), 6.32 (d, J=3.2 Hz, 1H) 4.16 (t, J=6.4 Hz, 2H), 3.77 (s, 3H), 3.53 (t, J=6 Hz, 2H), 1.90 (apparent quintet, J=6.8 Hz, 2H), 0.87 (s, 9H), 0.01 (s, 6H). MS (electrospray, m/z) 320 (M++1).

reactant | 6-methoxyindole | 67.9 mmol, 10.0 g | COC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | (3-bromo-propoxy)-tert-butyl-dimethylsilane | 71.3 mmol, 18.0 g | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | NaH | 8.82 mmol, 0.353 g | [H-].[Na+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 1-[3-(tert-Butyl-dimethyl-silanyloxy)-propyl]-6-methoxy-1H-indole | 22.1 g, 100% | C(C)(C)(C)[Si](OCCCN1C=CC2=CC=C(C=C12)OC)(C)C | C18H29NO2Si
